US08486967B2
a) 8-(2-Chloropyridin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane
To a solution of 1,4-dioxa-8-azaspiro[4.5]decane (895 μL, 6.98 mmol) and 2-chloro-4-fluoropyridine (1.01 g, 7.68 mmol) in dioxane (15 mL) was added N,N-diisopropylethylamine (1.83 mL, 10.5 mmol). Argon was bubbled through the reaction mixture for 5 minutes before it was heated to 120° C. in microwave for 3 hours. After evaporation, purification by chromatography (silica gel, 20 g, 30 to 10% ethyl acetate in heptane) afforded the title compound (1.3 g, 73%) as a yellow solid.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 6.98 mmol, 895 μL | O1CCOC12CCNCC2 | C7H13NO2
reactant | 2-chloro-4-fluoropyridine | 7.68 mmol, 1.01 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | N,N-diisopropylethylamine | 10.5 mmol, 1.83 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 8-(2-Chloropyridin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane | 1.3 g, 73% | ClC1=NC=CC(=C1)N1CCC2(OCCO2)CC1 | C12H15ClN2O2
